US04558143
To a mixture of 3 ml of ethanol and 7 ml of 29% aqueous ammonia was added 1.0 g of 4-oxo-4,5,6,7-tetrahydrobenzofuran, and then the mixture was subjected to reaction in a sealed tube at 150° C. for 12 hours. After completing the reaction, the reaction mixture was concentrated. The resulting residue was applied to a column of silica gel and eluted with a mixed solvent of acetone and ethyl acetate to give 950 mg (yield: 96%) of 4-oxo-4,5,6,7-tetrahydroindole being a light yellowish crystal.

reactant | ammonia | 7 ml | N | H3N
reactant | 4-oxo-4,5,6,7-tetrahydrobenzofuran | 1.0 g | O=C1CCCC2=C1C=CO2 | C8H8O2
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4-oxo-4,5,6,7-tetrahydroindole | 950 mg, yield: 96% | O=C1C=2C=CNC2CCC1 | C8H9NO
